US04999378
Methanol (200 ml) and methyl 4-[3-[N-(4nitrophenyl)amino]propoxy]benzoate (6.9 g) were added to 5 % palladium/carbon (0.7 g) and catalytic reduction was carried out at room temperature overnight. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure, then, to the residue was added isopropyl ether. The insoluble product was collected by filtration to give methyl 4-[3-[N-(4-aminophenyl)amino]propoxy]benzoate (5.5 g).

reactant | methyl 4-[3-[N-(4nitrophenyl)amino]propoxy]benzoate | 6.9 g | [N+](=O)([O-])C1=CC=C(C=C1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C17H18N2O5
catalyst | palladium/carbon | 0.7 g | [Pd] | Pd
solvent | Methanol | 200 ml | CO | CH4O
product | methyl 4-[3-[N-(4-aminophenyl)amino]propoxy]benzoate | 5.5 g | NC1=CC=C(C=C1)NCCCOC1=CC=C(C(=O)OC)C=C1 | C17H20N2O3
